US04431576
A mixture of 4.2 g of (1R,trans) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylic acid, 3.5 g of methyl N,N'-diisopropyl-carbamimidate and about 20 ml of ethyl acetate was refluxed for 2 hours and was cooled and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with a 6-4 cyclohexane-ethyl acetate mixture to obtain 2.5 g of methyl (1R,trans) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+65°±2.5° (c=0.6% in ethanol).

reactant | (1R,trans) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylic acid | 4.2 g | CC1([C@@H]([C@H]1/C=C\1/C(OCC1)=O)C(=O)O)C | C11H14O4
reactant | methyl N,N'-diisopropyl-carbamimidate | 3.5 g | C(C)(C)NC(OC)=NC(C)C | C8H18N2O
solvent | ethyl acetate | about 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl (1R,trans) 2,2-dimethyl-3-[(E) (dihydro-2-oxo-3-(2H)-furanylidene)-methyl]-cyclopropane-1-carboxylate | 2.5 g | CC1([C@@H]([C@H]1/C=C\1/C(OCC1)=O)C(=O)OC)C | C12H16O4
